US06919315B1
(2E)-5-Methyl-5-(methylamino)hex-2-enoic acid N-((1R)-1-{N-[(1R)-1-benzyl-2-(4-hydroxypiperidin-1-yl)-2-oxoethyl]-N-methylcarbamoyl}-2-(biphenyl-4-yl)ethyl)-N-methylamide
The title compound was prepared as in example 1 but using 4-hydroxypiperidine, (2R)-2-(N-tert-butoxycarbonyl-N-methylamino)-3-phenylpropionic acid and (2R)-2-(N-tert-butoxycarbonyl-N-methylamino)-3-(biphenyl-4-yl)propionic acid and (2E)-5-(N-(tert Butoxycarbonyl)-N-methylamino)-5-methylhex-2-enoic acid as starting materials.

reactant | 4-hydroxypiperidine | OC1CCNCC1 | C5H11NO
reactant | (2R)-2-(N-tert-butoxycarbonyl-N-methylamino)-3-phenylpropionic acid | C(C)(C)(C)OC(=O)N(C)[C@@H](C(=O)O)CC1=CC=CC=C1 | C15H21NO4
reactant | (2R)-2-(N-tert-butoxycarbonyl-N-methylamino)-3-(biphenyl-4-yl)propionic acid | C(C)(C)(C)OC(=O)N(C)[C@@H](C(=O)O)CC1=CC=C(C=C1)C1=CC=CC=C1 | C21H25NO4
reactant | (2E)-5-(N-(tert Butoxycarbonyl)-N-methylamino)-5-methylhex-2-enoic acid | C(C)(C)(C)OC(=O)N(C)C(C/C=C/C(=O)O)(C)C | C13H23NO4
product | (2E)-5-Methyl-5-(methylamino)hex-2-enoic acid N-((1R)-1-{N-[(1R)-1-benzyl-2-(4-hydroxypiperidin-1-yl)-2-oxoethyl]-N-methylcarbamoyl}-2-(biphenyl-4-yl)ethyl)-N-methylamide | C(C1=CC=CC=C1)[C@H](C(=O)N1CCC(CC1)O)N(C(=O)[C@@H](CC1=CC=C(C=C1)C1=CC=CC=C1)N(C(\C=C\CC(C)(NC)C)=O)C)C | C39H50N4O4
